* Extracted by KLayout with GF180MCU LVS runset on : 08/05/2026 12:55

.SUBCKT DFF VDD RSTn D CLK VSS Q Qb
M$1 \$3 \$6 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.76P AD=0.65P PS=3.52U PD=3.3U
M$2 VDD \$3 \$4 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$3 \$4 RSTn VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$4 \$6 \$2 \$4 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.59P PS=3.3U PD=3.18U
M$5 \$5 D \$6 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.605P PS=3.26U PD=3.21U
M$6 VDD \$8 \$5 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.54P PS=3.26U PD=3.08U
M$7 VDD \$2 \$8 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.64P PS=3.26U PD=3.28U
M$8 VDD CLK \$2 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$9 \$33 \$31 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$10 \$46 \$33 \$31 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$11 VDD \$8 \$46 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$12 Q \$33 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$13 \$36 \$33 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$14 Qb \$36 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$15 \$31 \$2 \$3 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$16 \$33 RSTn VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$17 \$3 \$6 VSS VSS nfet_03v3 L=0.28U W=1U AS=0.76P AD=0.61P PS=3.52U PD=3.22U
M$18 \$21 \$3 VSS VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$19 \$4 RSTn \$21 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$20 \$6 \$8 \$4 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$21 \$22 D \$6 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$22 VSS \$2 \$22 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.575P PS=3.22U
+ PD=3.15U
M$23 VSS \$2 \$8 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$24 VSS CLK \$2 VSS nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.61P PS=3.26U PD=3.22U
M$25 \$31 \$8 \$3 VSS nfet_03v3 L=0.28U W=1U AS=0.715P AD=0.61P PS=3.43U
+ PD=3.22U
M$26 \$32 RSTn VSS VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$27 \$33 \$31 \$32 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$28 \$34 \$33 \$31 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$29 VSS \$2 \$34 VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$30 Q \$33 VSS VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$31 \$36 \$33 VSS VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$32 Qb \$36 VSS VSS nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
.ENDS DFF
